US08293753B2
Step 10.3: N-[4′-Methyl-2-(1-trifluoromethyl-cyclopropyl)-[4,5′]bithiazolyl-2′-yl]-acetamide
To a solution of N-[5-(2-bromo-acetyl)-4-methyl-thiazol-2-yl]-acetamide (0.29 g, prepared as described in WO 2005/068444) in MeOH (15 mL) at rt was added 1-trifluoromethyl-cyclopropanecarbothioic acid amide [871913-36-9] (0.20 g) and ammoniumphosphomolybdate (0.15 g). After stirring 18 h at rt, the reaction mixture was partitioned between EtOAc and water, the organic layers dried over Na2SO4 and evaporated to give the crude product. Purification by flash chromatography with an eluent of 1% MeOH in CH2Cl2 gave the title compound. MS (ESI): positive 348.1 (M+H), negative 346.1 (M−H).

reactant | N-[5-(2-bromo-acetyl)-4-methyl-thiazol-2-yl]-acetamide | 0.29 g | BrCC(=O)C1=C(N=C(S1)NC(C)=O)C | C8H9BrN2O2S
reactant | 1-trifluoromethyl-cyclopropanecarbothioic acid amide | 0.20 g | FC(C1(CC1)C(N)=S)(F)F | C5H6F3NS
solvent | MeOH | 15 mL | CO | CH4O
catalyst | ammoniumphosphomolybdate | 0.15 g | [OH-].[O-2].[P-3].[Mo]
product | N-[4′-Methyl-2-(1-trifluoromethyl-cyclopropyl)-[4,5′]bithiazolyl-2′-yl]-acetamide | CC=1N=C(SC1C=1N=C(SC1)C1(CC1)C(F)(F)F)NC(C)=O | C13H12F3N3OS2
